### PR TITLE
Erdős Problem 51

### PR DESCRIPTION
**Pull request by cosmicgenius**
Fix https://github.com/google-deepmind/formal-conjectures/issues/271

### CODE REVIEW

File: FormalConjectures/ErdosProblems/51.lean [hunk 1]
```diff
@@ -0,0 +1,46 @@
...
+    ∃ A : Set ℕ, ∃ n : A → ℕ,
+      A.Infinite ∧
+      ∀ a : A, IsLeast (Nat.totient ⁻¹' {(a : ℕ)}) (n a) ∧
+      Filter.Tendsto (fun a : A => (n a : ℝ) / (a : ℝ)) Filter.atTop Filter.atTop
+    ↔ answer(sorry) := by
+  sorry
+
+/-
+The remarks from the erdosproblems site are the same as those in
+[erdosproblems.com/694](https://www.erdosproblems.com/694).
```
Comment (cosmicgenius) [inline FormalConjectures/ErdosProblems/51.lean:46]: For this reason, I didn't add any of the extra statements there. Should we still add them anyways? Is this comment necessary?

Comment (mo271) [reply FormalConjectures/ErdosProblems/51.lean:46]: Yeah, I think it is fine not to repeat them, and good to mention it in a comment!

File: FormalConjectures/ErdosProblems/51.lean [hunk 2]
```diff
@@ -0,0 +1,46 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 51
+
+*Reference:* [erdosproblems.com/51](https://www.erdosproblems.com/51)
+-/
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/51.lean:24]:
```suggestion

open Filter
open scoped Nat

```
This way we don't need to write `Filter` below. 
This then allows to use `φ` instead of `Nat.totient` below.

File: FormalConjectures/ErdosProblems/51.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+Is there an infinite set A ⊆ ℕ such that for every a ∈ A,
+there is an integer n such that ϕ(n)=a, and
+yet if nₐ is the smallest such integer, then nₐ/a → ∞ as a → ∞?
+-/
+@[category research open, AMS 11]
+theorem erdos_51 :
+    ∃ A : Set ℕ, ∃ n : A → ℕ,
+      A.Infinite ∧
+      ∀ a : A, IsLeast (Nat.totient ⁻¹' {(a : ℕ)}) (n a) ∧
+      Filter.Tendsto (fun a : A => (n a : ℝ) / (a : ℝ)) Filter.atTop Filter.atTop
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/51.lean]:
```suggestion
      (∀ a : A, IsLeast (φ ⁻¹' {(a : ℕ)}) (n a)) ∧
      Tendsto (fun a : A => (n a : ℝ) / (a : ℝ)) atTop atTop
```
note also the parentheses around the `∀ a`, which makes for a more natural statement.

File: FormalConjectures/ErdosProblems/51.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
...
+
+*Reference:* [erdosproblems.com/51](https://www.erdosproblems.com/51)
+-/
+
+namespace Erdos51
+
+/--
+Is there an infinite set A ⊆ ℕ such that for every a ∈ A,
+there is an integer n such that ϕ(n)=a, and
+yet if nₐ is the smallest such integer, then nₐ/a → ∞ as a → ∞?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/51.lean]:
```suggestion
Is there an infinite set $A ⊆ ℕ$ such that for every $a ∈ A$,
there is an integer n such that $\phi(n)=a$, and
yet if $n_a$ is the smallest such integer, then $\frac{n_a}{a} → ∞$ as $a → ∞$?
```

Let's use more LaTex markdown

File: FormalConjectures/ErdosProblems/51.lean (hunk 3 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/51.lean]: I think we need parenthesis around everything before the `↔ answer(sorry)`.

**Review by mo271 — COMMENTED** [review]
Thanks, looks good!

File: FormalConjectures/ErdosProblems/51.lean [hunk 5]
```diff
@@ -0,0 +1,49 @@
...
+there is an integer n such that $\phi(n)=a$, and
+yet if $n_a$ is the smallest such integer, then $\frac{n_a}{a} → \infty$ as $a → ∞$?
+-/
+@[category research open, AMS 11]
+theorem erdos_51 :
+    ∃ A : Set ℕ, ∃ n : A → ℕ,
+      (A.Infinite ∧
+      (∀ a : A, IsLeast (φ ⁻¹' {(a : ℕ)}) (n a)) ∧
+      Tendsto (fun a : A => (n a : ℝ) / (a : ℝ)) atTop atTop)
+    ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/51.lean:41]:
```suggestion
theorem erdos_51 :
    (∃ A : Set ℕ, ∃ n : A → ℕ,
      A.Infinite ∧
      (∀ a : A, IsLeast (φ ⁻¹' {(a : ℕ)}) (n a)) ∧
      Tendsto (fun a : A => (n a : ℝ) / (a : ℝ)) atTop atTop)
    ↔ answer(sorry) := by
```

**Review by mo271 — APPROVED** [review]
